US07265149B2
In analogy to the procedure described for example 9 b], 5-chloromethyl-1-methyl-3-(4-trifluoromethoxy-phenyl)-1H-pyrazole was reacted with tetrabutylammonium cyanide in acetonitrile to give [2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-acetonitrile as yellow solid.

reactant | 5-chloromethyl-1-methyl-3-(4-trifluoromethoxy-phenyl)-1H-pyrazole | ClCC1=CC(=NN1C)C1=CC=C(C=C1)OC(F)(F)F | C12H10ClF3N2O
reactant | acetonitrile | C(C)#N | C2H3N
catalyst | tetrabutylammonium cyanide | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
product | [2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-acetonitrile | CN1N=C(C=C1CC#N)C1=CC=C(C=C1)OC(F)(F)F | C13H10F3N3O
